datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6][O:7])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:11])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10],76.0233
[C:0]1=[C:1]([H:9])[c:2]2[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]2[C:8]1([H:14])[H:15].[H:16]>>[C:0]1([H:16])=[C:1]([H:9])[c:2]2[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]2[C:8]1([H:14])[H:15],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:16])[H:15])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]1([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:10],103.68
[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])[C:5]([H:17])=[C:6]([H:18])[C:7]([H:19])=[C:8]12)([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[c:3]2[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]21)([H:9])([H:10])[H:11].[H:15],111.562176
[O:0]=[C:1][c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[O+:0]#[C-:1].[c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12],121.390392
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:17],21.7568
[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7].[H:8],135.159936
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:14])[H:13])([H:9])([H:10])[H:11].[H:12],169.171672
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:10][H:13],20.92
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:8],63.6805
[C:0]([C:1]([C:2]1[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:10])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])[H:11])([H:7])([H:8])[H:9],172.381
[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23>>[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8][c:9]([H:19])[c:10]1[c:11]23.[H:18],619.549984
[C:0]([S:1])([H:2])([H:3])[H:4].[C:5]([S:6])([H:7])([H:8])[H:9]>>[C:0]([S:1][S:6][C:5]([H:7])([H:8])[H:9])([H:2])([H:3])[H:4],-3.9748
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6](=[O:7])[O:8][O:9])([H:10])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:9][O:8][C:6]([C:5]([H:10])([H:11])[H:12])=[O:7],77.32032
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:8])([H:6])[H:7],47.865
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])([H:5])[H:6],61.3374
[H:13].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:9][H:13].[O:0]([c:1]1[c:2]([H:8])[c:3][c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7],66.944
[C-:0]#[O+:1].[O:2][C:3](=[O:4])[H:5]>>[C:0](=[O:1])[O:2][C:3](=[O:4])[H:5],12.552
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:21]>>[C:0]([C:1]1([H:10])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:11][H:21],18.238056
